US05576318
ii) 1-(3-Trifluoromethylphenyl) piperidin-4-one
In another flask, tri-(3-trifluoromethylphenyl) bismuth (6 g) was dissolved in dry methylenedichloride (70 ml), and copper acetate (1.55 g) was added. The previously prepared solution of piperidin-4-one was then added dropwise under stirring at room temperature and under a nitrogen stream. The reaction mixture became light blue and then turned green. Stirring was kept on for 2 days, then water was added. The insoluble material that separated was filtered off, the organic layer was separated, dessicated over MgSO4 concentrated to dryness under vacuum. After chromatographic purification on Silicagel with eluent hexane/ethylacetate 80:20, 1.26 g of the desired compound were obtained. MS(C.I.): [M+H]+ 244, 224 m/z.

reactant | piperidin-4-one | N1CCC(CC1)=O | C5H9NO
reactant | water | O | H2O
reactant | tri-(3-trifluoromethylphenyl) bismuth | 6 g | FC(C=1C=C(C=CC1)[Bi](C1=CC(=CC=C1)C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)(F)F
solvent | methylenedichloride | 70 ml | C(Cl)Cl | CH2Cl2
catalyst | copper acetate | 1.55 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(3-Trifluoromethylphenyl) piperidin-4-one | 1.26 g | FC(C=1C=C(C=CC1)N1CCC(CC1)=O)(F)F | C12H12F3NO
